US06046192
2-[(2S)-2-[[(2R)-2-(4-Benzyloxyphenyl)-2-hydroxyethyl]-amino]-1,2,3,4-tetrahydronaphthalen-7-yloxy]-N,N-dimethylacetamide (273 mg) and 10% palladium on activated carbon (60 mg) were suspended in ethanol (5.5 ml). After the mixture was stirred at room temperature for 12 hours under hydrogen atmosphere, the catalyst was filtered off and the filtrate was concentrated in vacuo. Recrystallization of the resulting residue from methanol gave 2-[(2S)-2-[[(2R)-2-hydroxy-2-(4-hydroxyphenyl)ethyl]amino]-1,2,3,4-tetrahydronaphthalen-7-yloxy]-N,N-dimethylacetamide (200 mg) having a melting point of 169-172° C.

reactant | 2-[(2S)-2-[[(2R)-2-(4-Benzyloxyphenyl)-2-hydroxyethyl]-amino]-1,2,3,4-tetrahydronaphthalen-7-yloxy]-N,N-dimethylacetamide | 273 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)[C@H](CN[C@@H]1CC2=CC(=CC=C2CC1)OCC(=O)N(C)C)O | C29H34N2O4
catalyst | palladium on activated carbon | 60 mg | [Pd] | Pd
solvent | ethanol | 5.5 ml | C(C)O | C2H6O
product | 2-[(2S)-2-[[(2R)-2-hydroxy-2-(4-hydroxyphenyl)ethyl]amino]-1,2,3,4-tetrahydronaphthalen-7-yloxy]-N,N-dimethylacetamide | 200 mg | O[C@@H](CN[C@@H]1CC2=CC(=CC=C2CC1)OCC(=O)N(C)C)C1=CC=C(C=C1)O | C22H28N2O4
